US03931218
A solution of 65 grams of p-toluenesulfonyl chloride in 125 ml. of dichloromethane was added dropwise with stirring to a solution of 100 grams of N-isopropylethylenediamine in 150 ml. of dichloromethane. Following completion of addition the mixture was stirred one-half hour at room temperature, then heated in a steam bath for 45 minutes. The mixture was evaporated to dryness in vacuo. The residue was triturated with sodium carbonate solution then dissolved in a mixture of ethyl acetate and water. The ethyl acetate portion was extracted with saturated sodium carbonate solution and water. After drying the ethyl acetate portion over magnesium sulfate, the solvent was removed in vacuo. The solid residue was recrystallized from ethyl acetate-hexane to obtain N-[2-(isopropylamino)ethyl]-p-toluenesulfonamide, m.p. 76°-8°C.

reactant | p-toluenesulfonyl chloride | 65 grams | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-isopropylethylenediamine | 100 grams | C(C)(C)NCCN | C5H14N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(isopropylamino)ethyl]-p-toluenesulfonamide | C(C)(C)NCCNS(=O)(=O)C1=CC=C(C=C1)C | C12H20N2O2S
